US06706709B2
3-[5-(2-Diethylamino-ethoxy)-1H-indol-2-ylmethylene]-5-phenyl-1,3-dihydro-indol-2-one
A mixture of 5-phenyl-2-oxindole (39 mg, 0.18 mmol), 5-(2-diethylamino-ethoxy)-1H-indole-2-carbaldehyde (48 mg, 0.18 mmol) and piperidine (0.1 mL) in ethanol (1 mL) was heated at 100° C. for 2 hours. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 44 mg (54%) of the title compound as a red solid.

reactant | 5-phenyl-2-oxindole | 0.18 mmol, 39 mg | C1(=CC=CC=C1)C=1C=C2CC(NC2=CC1)=O | C14H11NO
reactant | 5-(2-diethylamino-ethoxy)-1H-indole-2-carbaldehyde | 0.18 mmol, 48 mg | C(C)N(CCOC=1C=C2C=C(NC2=CC1)C=O)CC | C15H20N2O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-[5-(2-Diethylamino-ethoxy)-1H-indol-2-ylmethylene]-5-phenyl-1,3-dihydro-indol-2-one | 44 mg, 54% | C(C)N(CCOC=1C=C2C=C(NC2=CC1)C=C1C(NC2=CC=C(C=C12)C1=CC=CC=C1)=O)CC | C29H29N3O2
